US07524839B2
N-(4-Methoxybenzenesulfonyl)-5-(piperazin-1-yl)-indole, hydrochloride
N-(4-Methoxybenzenesulfonyl)-5-(4-benzylpiperazin-1-yl)-indole (0.25 g, 0.54 mmol) was dissolved in DCM (4 mL), α-chloroethyl chloroformate (0.150 g, 1.05 mmol) was added and the mixture left at room temperature for 2 h after which it was concentrated. MeOH (10 mL) was added and the mixture refluxed for 2 hrs and then concentrated to give the product (0.22 g, quantitative yield). 1H NMR (MeOH d6) δ 3.39-3.47 (8H, m), 3.77 (3H, s), 6.64 (1H, d, J=3), 6.94 (2H, d, J=9), 7.15 (1H, dd, J=9, 2), 7.26 (1H, d, J=2), 7.59 (1H, d, J=4), 7.80 (2H, d, J=9) and 7.90 (1, H, d, J=9); MS (posES-FIA) 371.1304 M+; Purity (HPLC chromsil C18) >98%.

reactant | N-(4-Methoxybenzenesulfonyl)-5-(4-benzylpiperazin-1-yl)-indole | 0.54 mmol, 0.25 g | COC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)N1CCN(CC1)CC1=CC=CC=C1 | C26H27N3O3S
reactant | α-chloroethyl chloroformate | 1.05 mmol, 0.150 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Methoxybenzenesulfonyl)-5-(piperazin-1-yl)-indole, hydrochloride | 0.22 g, quantitative yield | Cl.COC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)N1CCNCC1 | InChI=1S/C19H21N3O3S.ClH/c1-25-17-3-5-18(6-4-17)26(23,24)22-11-8-15-14-16(2-7-19(15)22)21-12-9-20-10-13-21;/h2-8,11,14,20H,9-10,12-13H2,1H3;1H
